US06265415B1
Synthesis of 2,3-diamino-5-fluoropyridine
To a solution of 2-amino-5-fluoro-3-nitropyridine (0.42 g, 2.3 mmol) and iron powder (1.6 g, 28 mmol) in ethanol (10 ml) were added water (0.5 ml, 28 mmol) and hydrochloric acid (27 μl, 0.32 mmol). The mixture was refluxed for 1 h. An additional amount of iron powder (0.2 g, 3.6 mmol) was added and the mixture was refluxed for 30 min. The reaction mixture was filtered through celite and evaporation under reduced pressure of the solvent gave 0.3 g (100%) of the desired product.

reactant | 2-amino-5-fluoro-3-nitropyridine | 2.3 mmol, 0.42 g | NC1=NC=C(C=C1[N+](=O)[O-])F | C5H4FN3O2
reactant | water | 28 mmol, 0.5 ml | O | H2O
reactant | hydrochloric acid | 0.32 mmol, 27 μl | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | iron | 28 mmol, 1.6 g | [Fe] | Fe
catalyst | iron | 3.6 mmol, 0.2 g | [Fe] | Fe
product | 2,3-diamino-5-fluoropyridine | 0.3 g, 100% | NC1=NC=C(C=C1N)F | C5H6FN3
